US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.42 mmol) and α-cyclopropyl-α,5-dimethyl-1,2,4-oxadiazole-3-methanamine (CAN 1155536-64-3, 106.88 mg, 0.64 mmol) as starting materials, and isolated (12 mg, 7.3%) as white solid; LC-MS (UV peak area, ESI) 83.46%, 384.0 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.42 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | α-cyclopropyl-α,5-dimethyl-1,2,4-oxadiazole-3-methanamine | 0.64 mmol, 106.88 mg | C1(CC1)C(N)(C1=NOC(=N1)C)C | C8H13N3O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | C1(CC1)C(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C20H25N5O3
